US07067540B2
4-(Benzyloxy)-3-bromo-1-[(6-fluoropyridin-3-yl)methyl]pyridin-2(1H)-one
A mixture of 4-(benzyloxy)-3-bromopyridin-2(1H)-one (0.2 g, 0.00076 mol), 5-bromomethyl-2-fluoropyridine (0.25 g, 0.0013 mol) and pot. Carbonate (0.15 g, 0.0011 mol) in DMF (3.0 ml) was stirred at room temperature for 16 h under argon atmosphere. DMF was distilled in vacuo and the residue was partitioned between water (15 ml) and EtOAc (25 mL). The organic phase was washed with water, dried (Na2SO4) and concentrated under reduced pressure. 1H NMR (CD3OD/400 MHz) δ 8.22 (m, 1H, 2.4 Hz), 7.92 (m, 1H), 7.82 (d, 1H, J=7.6 Hz), 7.44-7.31 (m 5H), 7.03 (m, 1H), 6.49 (d, 1H, J=7.6 Hz), 5.29 (s, 2H), and 5.20 (s, 2H); 19F NMR (CD3OD/400 MHz) δ−72.30 (d, J=6.0 Hz) and −115 (m); ES-HRMS m/z 389.0295 (M+H C18H15N2O2FBr, requires 389.0309).

reactant | 4-(benzyloxy)-3-bromopyridin-2(1H)-one | 0.00076 mol, 0.2 g | C(C1=CC=CC=C1)OC1=C(C(NC=C1)=O)Br | C12H10BrNO2
reactant | 5-bromomethyl-2-fluoropyridine | 0.0013 mol, 0.25 g | BrCC=1C=CC(=NC1)F | C6H5BrFN
reactant | Carbonate | 0.0011 mol, 0.15 g | C([O-])([O-])=O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 4-(Benzyloxy)-3-bromo-1-[(6-fluoropyridin-3-yl)methyl]pyridin-2(1H)-one | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)CC=1C=NC(=CC1)F)=O)Br | C18H14BrFN2O2
